US04000144
A solution of 7.9 g of 4-[2-(1-adamantyl)-5-methylphenoxy]-butyric acid ethyl ester in 80 ml of ethanol and 80 ml of 1 N sodium hydroxide solution is left to stand for 60 hours at about 25° C. It is then evaporated to dryness in vacuo and the evaporation residue is partitioned between 100 ml of 2 N hydrochloric acid and twice 200 ml of ether. The organic phases are washed until neutral, treated with active charcoal, dried over sodium sulphate and evaporated in vacuo. Crystallising the evaporation residue twice from ether-petroleum ether gives 4-[2-(1-adamantyl)-5-methylphenoxy]-butyric acid of melting point 147°-150° C.

reactant | 4-[2-(1-adamantyl)-5-methylphenoxy]-butyric acid ethyl ester | 7.9 g | C(C)OC(CCCOC1=C(C=CC(=C1)C)C12CC3CC(CC(C1)C3)C2)=O | C23H32O3
solvent | ethanol | 80 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 1 N, 80 ml | [OH-].[Na+]
product | 4-[2-(1-adamantyl)-5-methylphenoxy]-butyric acid | C12(CC3CC(CC(C1)C3)C2)C2=C(OCCCC(=O)O)C=C(C=C2)C | C21H28O3
